US08486946B2
Step 1: Preparation of ethyl 3-(3-chloro-2-fluorophenyl)-2-diazo-3-oxopropanoate
Ethyl 3-(3-chloro-2-fluorophenyl)-3-oxopropanoate (1.30 g, 5.31 mmol), triethylamine (0.618 g, 6.11 mmol, 1.15 equiv), and 4-acetamidobenzenesulfonyl azide (1.40 g, 5.85 mmol, 1.1 equiv) were combined in acetonitrile (15 mL). After stirred at ambient temperature for 30 minutes, the mixture was concentrated in vacuo and the residue was treated with sodium hydroxide (25 mL, 2 M aqueous) and extracted with twice chloroform. The combined organic extracts were washed once with brine, dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 40:60; hexanes:ethyl acetate), providing the titled compound.

reactant | Ethyl 3-(3-chloro-2-fluorophenyl)-3-oxopropanoate | 5.31 mmol, 1.30 g | ClC=1C(=C(C=CC1)C(CC(=O)OCC)=O)F | C11H10ClFO3
reactant | triethylamine | 6.11 mmol, 0.618 g, 1.15 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulfonyl azide | 5.85 mmol, 1.40 g, 1.1 equiv | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | ethyl 3-(3-chloro-2-fluorophenyl)-2-diazo-3-oxopropanoate | ClC=1C(=C(C=CC1)C(C(C(=O)OCC)=[N+]=[N-])=O)F | C11H8ClFN2O3
